US04999356
To a stirred mixture of 1.6 g of cyanogen bromide, 2.1 g of potassium carbonate and 30 ml of dimethyl sulfoxide was added, dropwise, a solution of 4.8 g of 6-fluoro-3-(4-methyl-1-piperazinyl)-1-phenyl-1H-indazole in 30 ml of dimethylsulfoxide. The reaction mixture was stirred at ambient temperature for 2 hours and then poured into water. The resulting precipitate was recrystallized from ethanol to yield 2.3 g (48%) of 4-(6-fluoro-1-phenyl-1H-indazol-3-yl)-1-piperazine carbonitrile, m.p. 172°-174°.

reactant | cyanogen bromide | 1.6 g | N#CBr | CBrN
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-fluoro-3-(4-methyl-1-piperazinyl)-1-phenyl-1H-indazole | 4.8 g | FC1=CC=C2C(=NN(C2=C1)C1=CC=CC=C1)N1CCN(CC1)C | C18H19FN4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-(6-fluoro-1-phenyl-1H-indazol-3-yl)-1-piperazine carbonitrile | 2.3 g, 48% | FC1=CC=C2C(=NN(C2=C1)C1=CC=CC=C1)N1CCN(CC1)C#N | C18H16FN5
